US08754103B2
In a heavy-wall pressure tube, a suspension of 3-chloro-6-hydrazinopyridazine (6.90 mmole) and trifluoroacetic anhydride (7.59 mmole) in toluene (10 mL) was heated at 110 C for 2 hours. The reaction mixture was concentrated down. The residue was dissolved in dichloromethane and washed with saturated NaHCO3. The organic extract was dried over Na2SO4 and evaporated in vacuo to afford the tan compound 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 3-chloro-6-hydrazinopyridazine | 6.90 mmole | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | trifluoroacetic anhydride | 7.59 mmole | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
